### PR TITLE
[Merged by Bors] - feat(NumberTheory/Padics/PadicVal): padicValNat_factorial'

### PR DESCRIPTION
**Pull request by mo271**
- [x] depends on: #5778
- [x] depends on: #5789 
- [x] depends on: #5802 
- [x] depends on: #6505
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5778
* leanprover-community/mathlib4#5789
* leanprover-community/mathlib4#5802
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 1]
```diff
@@ -34,6 +35,16 @@ This file uses the local notation `/.` for `Rat.mk`.
 Much, but not all, of this file assumes that `p` is prime. This assumption is inferred automatically
 by taking `[Fact p.Prime]` as a type class argument.
 
+## Multiplicity calculations
```
Comment (mo271) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:38]:
```suggestion
## Calculations with `p`-adic valuations
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 2]
```diff
@@ -589,6 +593,29 @@ theorem padicValNat_factorial {p n b : ℕ} [hp : Fact p.Prime] (hnb : log p n <
   PartENat.natCast_inj.mp ((padicValNat_def' (Nat.Prime.ne_one hp.out) <| factorial_pos _) ▸
       Prime.multiplicity_factorial hp.out hnb)
 
+/-- **Legendre's Theorem**
+
+Taking (`p - 1`) times the `p`-adic valuation of `n!` equals `n` minus the sum of base `p` digits
+of `n`. -/
+theorem padicValNat_factorial' {p : ℕ} [hp : Fact p.Prime] (n : ℕ):
+    (p - 1) * padicValNat p n ! = n - (p.digits n).sum := by
+  apply Nat.strongInductionOn n
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:602]:
```suggestion
  apply n.strongInductionOn
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 3]
```diff
@@ -589,6 +593,29 @@ theorem padicValNat_factorial {p n b : ℕ} [hp : Fact p.Prime] (hnb : log p n <
...
+  intro n hn
+  by_cases n = 0
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:604]:
```suggestion
  rcases n.eq_zero_or_pos with rfl | hnp; simp
```

Comment (ocfnash) [reply Mathlib/NumberTheory/Padics/PadicVal.lean:604]: Note that according to the [style guide](https://leanprover-community.github.io/contribute/style.html#tactic-mode)

> Very short goals can be closed right away using swap or work_on_goal if needed, to avoid additional indentation in the rest of the proof.

so it is acceptable, and I claim preferable, to dispense with the `n = 0` branch using `; simp`

You should then drop the `· ` and remove the intendation from the rest of the proof.

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 4]
```diff
@@ -589,6 +593,29 @@ theorem padicValNat_factorial {p n b : ℕ} [hp : Fact p.Prime] (hnb : log p n <
...
+  · simp only [h, ge_iff_le, factorial, padicValNat.one, mul_zero, ne_eq, digits_zero, List.sum_nil,
+        le_refl, tsub_eq_zero_of_le]
+  · suffices padicValNat p n ! = n / p + padicValNat p (n / p) ! by
+      rw [this, mul_add, hn (n / p) (Nat.div_lt_self (Nat.pos_of_ne_zero h) (Prime.one_lt hp.out))]
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:608]:
```suggestion
      rw [this, mul_add, hn (n / p) (Nat.div_lt_self hnp hp.out.one_lt)]
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 5]
```diff
@@ -589,6 +593,29 @@ theorem padicValNat_factorial {p n b : ℕ} [hp : Fact p.Prime] (hnb : log p n <
...
+      suffices (p.digits n).sum = n % p + (digits p (n / p)).sum by
+        nth_rw 4 [← div_add_mod' n p]
+        rw [this, sub_add_eq, Nat.add_sub_cancel, Nat.mul_sub_right_distrib p 1 _, one_mul,
+          ← Nat.add_sub_assoc (digit_sum_le p (n / p)) _,
+          Nat.sub_add_cancel <| le_mul_of_pos_left (Prime.pos hp.out), mul_comm]
+      rw [digits_def' (Nat.Prime.one_lt hp.out) (Nat.pos_of_ne_zero h)]
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:614]:
```suggestion
      rw [digits_def' hp.out.one_lt hnp]
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 6]
```diff
@@ -589,6 +593,29 @@ theorem padicValNat_factorial {p n b : ℕ} [hp : Fact p.Prime] (hnb : log p n <
...
+  by_cases n = 0
+  · simp only [h, ge_iff_le, factorial, padicValNat.one, mul_zero, ne_eq, digits_zero, List.sum_nil,
+        le_refl, tsub_eq_zero_of_le]
+  · suffices padicValNat p n ! = n / p + padicValNat p (n / p) ! by
+      rw [this, mul_add, hn (n / p) (Nat.div_lt_self (Nat.pos_of_ne_zero h) (Prime.one_lt hp.out))]
+      suffices (p.digits n).sum = n % p + (digits p (n / p)).sum by
+        nth_rw 4 [← div_add_mod' n p]
+        rw [this, sub_add_eq, Nat.add_sub_cancel, Nat.mul_sub_right_distrib p 1 _, one_mul,
+          ← Nat.add_sub_assoc (digit_sum_le p (n / p)) _,
+          Nat.sub_add_cancel <| le_mul_of_pos_left (Prime.pos hp.out), mul_comm]
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:613]:
```suggestion
          Nat.sub_add_cancel <| le_mul_of_pos_left hp.out.pos, mul_comm]
```

**Review by ocfnash — COMMENTED** [review]
I only have time to add some superficial comments. I'll try to come back to take a proper look tomorrow.

File: Mathlib/NumberTheory/Padics/PadicVal.lean (hunk 3 above)
Comment (mo271) [reply Mathlib/NumberTheory/Padics/PadicVal.lean]: done

**Comment by ocfnash** [comment]
Isn't the following lemma the real content of this PR:
```lean
theorem sub_one_mul_sum_div_pow_eq_sub_digits (n : ℕ) :
    (p - 1) * ∑ i in Finset.Icc 1 (log p n), n / p ^ i = n - (p.digits n).sum :=
```
Maybe this could go in `Mathlib/Data/Nat/Digits.lean`?

**Comment by mo271** [comment]
> ```lean
> theorem sub_one_mul_sum_div_pow_eq_sub_sum_digits (n : ℕ) :
>     (p - 1) * ∑ i in Finset.Icc 1 (log p n), n / p ^ i = n - (p.digits n).sum :=
> ```

Yes, this would be one way to do it and is indeed a stronger result (since it does not depend on p being prime). 
However I tried to proof this first and failed. This was due mainly because the paper proof that we can easily write down for this e.g. see [French](https://fr.wikipedia.org/wiki/Formule_de_Legendre) and [English](https://en.wikipedia.org/wiki/Legendre%27s_formula)  wikipedia, liberally manipulate the double sums, implicitly adding zero summands, which seems to be quite cumbersome to replicate in lean.

If there's an easy way to proof this, I'd be happy to add this lemma to `Mathlib/Data/Nat/Digits.lean` and make the proof of `padicValNat_factorial'` much simpler. 
I think the version that might be even more useful is to allow zero summands like so:

```lean
theorem sub_one_mul_sum_div_pow_eq_sub_sum_digits (n : ℕ) {b : ℕ} (hnb : log p n < b) :
     ∑ i in Finset.Ico 1 b, n / p ^ i = n - (p.digits n).sum :=
```
What would be the best way to proof this?

**Comment by ocfnash** [comment]
@mo271 Thank you for your work on this but I still think we should prove the result I stated so I'm going to relabel this back to "awaiting-author" until we have that.

Manipulating double sums etc. in absolutely possible in Mathlib, so this is no reason to settle for something less. However it does take some practice to become proficient. The right place to look for help learning this is on Zulip, rather than here. I encourage you to start a thread asking for help, either of the "PR Reviews" or "maths" streams. I bet you'll get lots of good answers there.

**Comment by mo271** [comment]
@ocfnash I used the lemma you suggested and as expected the proof is much easier!

Drive-by: actually use the variable `p` defined separately as is elsewhere in this file...

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 7]
```diff
@@ -584,17 +588,28 @@ largest multiple of `p` below `n`, i.e. `(p * ⌊n / p⌋)!`. -/
 
 The `p`-adic valuation of `n!` is the sum of the quotients `n / p ^ i`. This sum is expressed
 over the finset `Ico 1 b` where `b` is any bound greater than `log p n`. -/
-theorem padicValNat_factorial {p n b : ℕ} [hp : Fact p.Prime] (hnb : log p n < b) :
-    padicValNat p (n !) = ∑ i in Finset.Ico 1 b, n / p ^ i :=
+theorem padicValNat_factorial {n b : ℕ} [hp : Fact p.Prime] (hnb : log p n < b) :
+    padicValNat p n ! = ∑ i in Finset.Ico 1 b, n / p ^ i :=
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:592]: I think we should keep these brackets:
```suggestion
    padicValNat p (n !) = ∑ i in Finset.Ico 1 b, n / p ^ i :=
```

File: Mathlib/NumberTheory/Padics/PadicVal.lean [hunk 8]
```diff
@@ -584,17 +588,28 @@ largest multiple of `p` below `n`, i.e. `(p * ⌊n / p⌋)!`. -/
...
+/-- **Legendre's Theorem**
+
+Taking (`p - 1`) times the `p`-adic valuation of `n!` equals `n` minus the sum of base `p` digits
+of `n`. -/
+theorem padicValNat_factorial' [hp : Fact p.Prime] (n : ℕ):
+    (p - 1) * padicValNat p n ! = n - (p.digits n).sum := by
+  rw [padicValNat_factorial <| lt_succ_of_lt <| lt.base (log p n),
+      ← Finset.sum_Ico_add _ 0 _ 1, Ico_zero_eq_range,
+      ← @sub_one_mul_sum_log_div_pow_eq_sub_sum_digits p n]
+  simp only [one_add]
```
Comment (ocfnash) [inline Mathlib/NumberTheory/Padics/PadicVal.lean:605]:
```suggestion
theorem sub_one_mul_padicValNat_factorial_eq_sub_sum_digits [hp : Fact p.Prime] (n : ℕ):
    (p - 1) * padicValNat p (n !) = n - (p.digits n).sum := by
  rw [padicValNat_factorial <| lt_succ_of_lt <| lt.base (log p n), ← Finset.sum_Ico_add' _ 0 _ 1,
    Ico_zero_eq_range, ← sub_one_mul_sum_log_div_pow_eq_sub_sum_digits]
```

File: Mathlib/Data/Nat/Multiplicity.lean [hunk 9]
```diff
@@ -24,7 +24,8 @@ coefficients.
 
 * `Nat.Prime.multiplicity_factorial`: Legendre's Theorem. The multiplicity of `p` in `n!` is
   `n/p + ... + n/p^b` for any `b` such that `n/p^(b + 1) = 0`. See `padicValNat_factorial` for this
-  result stated in the language of `p`-adic valuations.
+  result stated in the language of `p`-adic valuations and `padicValNat_factorial'` for a
+  related result.
```
Comment (ocfnash) [inline Mathlib/Data/Nat/Multiplicity.lean:28]:
```suggestion
  result stated in the language of `p`-adic valuations and
  `sub_one_mul_padicValNat_factorial_eq_sub_sum_digits` for a related result.
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply the suggestions and then feel free to merge.

bors d+

**Comment by mo271** [comment]
Thanks for the review! I also replaced `padicValNat_factorial'` (with a "`'`")  by the new name `sub_one_mul_padicValNat_factorial_eq_sub_sum_digits`
